US04105681
5.5 ml. of phosphorous oxychloride are added dropwise while stirring to 4.6 ml. of dimethylformamide. The temperature rises to 30° C. The mixture is treated dropwise with 9.6 g. of 2-butyl-3,5-dimethyl-anisole, poured onto ice water after the addition of 30 to 35 percent aqueous solution of sodium acetate, stirred for 1 hour and extracted with benzene. The benzene extract is washed with water, dried over sodium sulfate and evaporated. There is obtained 4-methoxy-3-butyl-2,6-dimethyl-benzaldehyde, which is purified by absorption on silica gel, using hexane/methylene chloride 1:1 parts by volume as the eluent, before the condensation with 1-ethoxycarbonyl-2,6-dimethyl-hepta-1,3,5-trien-7-triphenylphosphonium bromide.

reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-butyl-3,5-dimethyl-anisole | C(CCC)C1=C(C=C(C=C1C)C)OC | C13H20O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-methoxy-3-butyl-2,6-dimethyl-benzaldehyde | COC1=C(C(=C(C=O)C(=C1)C)C)CCCC | C14H20O2
